*dcell node cout
Mp15 vccbloco gate_p15 drain_p15 vdd 				pmos_rvt w=27.0n l=20n nfin=3
Mn15 gate_p15 drain_p15 cout ground				nmos_rvt w=27.0n l=20n nfin=3
Mp16 cout gate_p16 drain_p16 vdd					pmos_rvt w=27.0n l=20n nfin=3
Mn16 gate_p16 drain_p16 vssbloco ground				nmos_rvt w=27.0n l=20n nfin=3